US08309546B2
5-{9-(Cyclopropylmethyl)-8-[cis-3,5-dimethyl-4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
Triethylamine (127.1 μl, 0.91 mmol) and methanesulfonyl chloride (35.3 ml, 0.46 mmol) were added to a dichloromethane suspension (2.0 ml) of 5-[9-(cyclopropylmethyl)-8-(cis-3,5-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine (105.9 mg, 0.23 mmol) with ice cooling and the resulting mixture was stirred at the same temperature for 2.5 hours and at room temperature for 4 hours. Triethylamine (127.1 μl, 0.91 mmol) and methanesulfonyl chloride (35.3 ml, 0.46 mmol) were added at room temperature and the resulting mixture was stirred for 16 hours followed by the addition of dichloromethane-methanol (10:1) and washed with water. The organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was dissolved in 1,2-dichloroethane (2.0 ml). Triethylamine (127.1 μl, 0.91 mmol) and methanesulfonyl chloride (35.3 ml, 0.46 mmol) were added at room temperature and the resulting mixture was stirred for 19 hours followed by the addition of dichloromethane and washed with 10% aqueous citric acid solution. The organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative thin layer silica gel chromatography (dichloromethane:methanol=10:1) to give the title compound (16.3 mg, 13%) as a pale yellow solid.

reactant | Triethylamine | 0.91 mmol, 127.1 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.46 mmol, 35.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-[9-(cyclopropylmethyl)-8-(cis-3,5-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.23 mmol, 105.9 mg | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1C[C@H](N[C@H](C1)C)C)N1CCOCC1)C=1C=NC(=NC1)N | C23H32N10O
reactant | Triethylamine | 0.91 mmol, 127.1 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.46 mmol, 35.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 0.91 mmol, 127.1 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.46 mmol, 35.3 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane methanol | ClCCl.CO
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 5-{9-(Cyclopropylmethyl)-8-[cis-3,5-dimethyl-4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 16.3 mg, 13% | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1C[C@H](N([C@H](C1)C)S(=O)(=O)C)C)N1CCOCC1)C=1C=NC(=NC1)N | C24H34N10O3S
